US08193356B2
To a suspension of 4-hydroxy-3-(2-phenylpropionyl)-1-(3-trifluoromethylphenyl)-1,8-naphthyridin-2(1H)-one (119 mg, 0.27 mmol) produced in Synthesis Example 38 in DMF (1 mL) was added hydrazine monohydrate (purity of 80%, 43 μL), and the mixture was stirred at 110 to 120° C. for 2 hours. To the reaction solution was added a sodium hydrogencarbonate aqueous solution, and an oily substance was collected. To the oily substance was added isopropyl ether, and the mixture was heated. Then the resulting matter was allowed to stand to a room temperature for crystallization. The resulting crystal was separated by filtration and dried to give 3-(1-phenylethyl)-5-(3-trifluoromethylphenyl)-1H-pyrazolo[4,3-c][1,8]naphthyridin-4(5H)-one as a form of crystal (69 mg, yield 59%).

reactant | 4-hydroxy-3-(2-phenylpropionyl)-1-(3-trifluoromethylphenyl)-1,8-naphthyridin-2(1H)-one | 0.27 mmol, 119 mg | OC1=C(C(N(C2=NC=CC=C12)C1=CC(=CC=C1)C(F)(F)F)=O)C(C(C)C1=CC=CC=C1)=O | C24H17F3N2O3
reactant | hydrazine monohydrate | 43 μL | O.NN
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 3-(1-phenylethyl)-5-(3-trifluoromethylphenyl)-1H-pyrazolo[4,3-c][1,8]naphthyridin-4(5H)-one | C1(=CC=CC=C1)C(C)C1=NNC2=C1C(N(C=1N=CC=CC21)C2=CC(=CC=C2)C(F)(F)F)=O | C24H17F3N4O
